US07179823B1
A mixture of ethyl(E)-3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxy]-1H-pyrazol-4-yl]propenoate (12.5 g), 5% palladium-carbon (20.0 g), ethanol (200 ml), and tetrahydrofuran (200 ml) was stirred under a hydrogen atmosphere at room temperature for 7 hours. After removal of the catalyst by filtration, the filtrate was concentrated. The obtained crystals were collected by filtration, and ethyl 3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-hydroxy-1H-pyrazol-4-yl]propionate (4.40 g, yield: 56%) was obtained. This was recrystallized from tetrahydrofuran-hexane. Melting point: 145–146° C.

reactant | ethyl(E)-3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxy]-1H-pyrazol-4-yl]propenoate | 12.5 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CN2N=C(C(=C2)/C=C/C(=O)OCC)OCC2=CC=C(C=C2)OCC=2N=C(OC2C)C=2OC=CC2)C=C1)C | C40H36N4O9
reactant | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 20.0 g | [C].[Pd]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | ethyl 3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-hydroxy-1H-pyrazol-4-yl]propionate | 4.40 g, yield: 56% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CN2N=C(C(=C2)CCC(=O)OCC)O)C=C1)C | C24H25N3O6
